US03976595
The following tests were carried out on the residue stream drawn from the base of a continuously-operating still-reactor column within which n-butanol and acrylic acid were being reacted in the presence of para-toluenesulfonic acid catalyst to form butyl acrylate. Acrylic acid and n-butanol were continuously introduced into the base section of the column, where they were mixed into a continuously-circulating stream drawn from the base of the column which then passed through a reboiler and was reintroduced into the column below the first tray. The esterification reaction took place in the base of the column, from which there was a small continuous drawoff of refractory tars.

reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | n-butanol | C(CCC)O | C4H10O
catalyst | para-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
